US08134001B2
In a manner similar to the method described in Example 50a, 5-chloro-2-fluoro-benzaldehyde (2 g, 12.8 mmol) (Beta Pharma) was reacted with 4-(methylthio)phenol (1.97 g, 14 mmol) (Aldrich) and K2CO3 in N,N-dimethylacetamide to give 5-chloro-2-(4-methylsulfanyl-phenoxy)-benzaldehyde as a brown oil (Yield 3.5 g, 98%).

reactant | 5-chloro-2-fluoro-benzaldehyde | 12.8 mmol, 2 g | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
reactant | 4-(methylthio)phenol | 14 mmol, 1.97 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-chloro-2-(4-methylsulfanyl-phenoxy)-benzaldehyde | Yield 3.5 g, 98% | ClC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)SC | C14H11ClO2S
